US04873262
2-Dipropylamino-8-(2-methanesulphonamido-ethyl)-1,2,3,4-tetrahydronaphthalene hydrochloride
1.2 g (4.4 mmol) of 2-dipropylamino-8-(2-aminoethyl)-1,2,3,4-tetrahydronaphthalene and 1.21 g (8.8 mmol) of potassium carbonate were initially introduced into 20 ml of methylene chloride. 550 mg (4.8 mmol) of methanesulphonyl chloride were then added dropwise at 25° C. The mixture was stirred overnight at room temperature. The mixture was then filtered, and the filtrate was washed once with water, dried over sodium sulphate and evaporated. Diethyl ether was added to the residue, methylene chloride was added until everything was dissolved, and the hydrochloride was precipitated using ethereal hydrochloric acid. The product was filtered off under suction and dried at 40° C. in a high vacuum.

reactant | 2-dipropylamino-8-(2-aminoethyl)-1,2,3,4-tetrahydronaphthalene | 4.4 mmol, 1.2 g | C(CC)N(C1CC2=C(C=CC=C2CC1)CCN)CCC | C18H30N2
reactant | potassium carbonate | 8.8 mmol, 1.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulphonyl chloride | 4.8 mmol, 550 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Dipropylamino-8-(2-methanesulphonamido-ethyl)-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.C(CC)N(C1CC2=C(C=CC=C2CC1)CCNS(=O)(=O)C)CCC | InChI=1S/C19H32N2O2S.ClH/c1-4-13-21(14-5-2)18-10-9-16-7-6-8-17(19(16)15-18)11-12-20-24(3,22)23;/h6-8,18,20H,4-5,9-15H2,1-3H3;1H
